US07151102B2
Pivaloyl chloride (120 g, 1 mol) was added dropwise at ambient temperature to a stirred solution of 2-methoxyaniline (123 g, 1 mol) and triethylamine (111 g, 1.1 mol) in 1,4-dioxane (1200 ml), the mixture was stirred at ambient temperature for 2 hours, then it was poured into water (3000 ml). The product was extracted into ethyl acetate (3×300 ml), then the combined extracts were dried (MgSO4) and the solvents were removed in vacuo to give N-(2-methoxyphenyl)pivalamide (198 g; 96%) as a low-melting solid which was used without further purification.

reactant | Pivaloyl chloride | 1 mol, 120 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2-methoxyaniline | 1 mol, 123 g | COC1=C(N)C=CC=C1 | C7H9NO
reactant | triethylamine | 1.1 mol, 111 g | C(C)N(CC)CC | C6H15N
reactant | water | 3000 ml | O | H2O
solvent | 1,4-dioxane | 1200 ml | O1CCOCC1 | C4H8O2
product | N-(2-methoxyphenyl)pivalamide | 198 g, 96% | COC1=C(C=CC=C1)NC(C(C)(C)C)=O | C12H17NO2
